US08865906B2
3-(6-Amino-pyridin-3-yl)-2-(1-cyclohexyl-1H-imidazol-4-yl)-propionic acid ethyl ester
39.0 g (88.1 mmol) 3-(6-tert-Butoxycarbonylamino-pyridin-3-yl)-2-(1-cyclohexyl-1H-imidazol-4-yl)-propionic acid ethyl ester as prepared in Example 2 were suspended in 200 ml Ethanol (EtOH) at RT. The mixture was saturated with HCl and was then refluxed for 2 h. The mixture was concentrated and the residue was treated with saturated aqueous K2CO3 (pH 9.0). The aqueous layer was extracted with AcOEt (3×200 ml). The combined organic layers were washed with brine (100 ml), dried with MgSO4 and concentrated to yield the title compound (30 g, 87.6 mmol, 99%) as brown oil.

reactant | 3-(6-tert-Butoxycarbonylamino-pyridin-3-yl)-2-(1-cyclohexyl-1H-imidazol-4-yl)-propionic acid ethyl ester | 88.1 mmol, 39.0 g | C(C)OC(C(CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)C=1N=CN(C1)C1CCCCC1)=O | C24H34N4O4
reactant | HCl | Cl | ClH
solvent | Ethanol | 200 ml | C(C)O | C2H6O
product | 3-(6-Amino-pyridin-3-yl)-2-(1-cyclohexyl-1H-imidazol-4-yl)-propionic acid ethyl ester | 87.6 mmol, 30 g, 99% | C(C)OC(C(CC=1C=NC(=CC1)N)C=1N=CN(C1)C1CCCCC1)=O | C19H26N4O2
